US07799775B2
A mixture of 1.29 g of methyl 2-(5-bromopentanoylamino)-6-chloro-benzoate as synthesized in above Step 7-18-B, 800 mg of 2-piperazin-1-ylquinoline as synthesized in Step 7-1-A, 400 mg of triethylamine and 20 ml of toluene was heated under reflux for 3 hours. After cooling, the solution was washed with water, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified on silica gel column chromatography (ethyl acetate:methanol=15:1) to provide 1.13 g (64%) of methyl 2-chloro-6-[5-(4-quinolin-2-ylpiperazin-1-yl)pentanoylamino]benzoate.

reactant | methyl 2-(5-bromopentanoylamino)-6-chloro-benzoate | 1.29 g | BrCCCCC(=O)NC1=C(C(=O)OC)C(=CC=C1)Cl | C13H15BrClNO3
reactant | 2-piperazin-1-ylquinoline | 800 mg | N1(CCNCC1)C1=NC2=CC=CC=C2C=C1 | C13H15N3
reactant | triethylamine | 400 mg | C(C)N(CC)CC | C6H15N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 2-chloro-6-[5-(4-quinolin-2-ylpiperazin-1-yl)pentanoylamino]benzoate | 1.13 g, 64% | ClC1=C(C(=O)OC)C(=CC=C1)NC(CCCCN1CCN(CC1)C1=NC2=CC=CC=C2C=C1)=O | C26H29ClN4O3
